US05180418
While stirring at room temperature, a solution of 1 g of 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3-dioxo-isoindolyl)-phenylthio]-cyclopropanecarboxylic acid chloride obtained in accordance with Example P9 in 10 ml of methyl acetate is added dropwise to a solution of 10 ml of methanol and 0.5 ml of triethylamine in 10 ml of methyl acetate. After stirring for 3 hours at room temperature, the resulting triethylamine hydrochloride is filtered off and the filtrate is concentrated by evaporation, yielding 0.9 g of 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3-dioxo-isoindolyl)-phenylthio]-cyclopropanecarboxylic acid methyl ester having a melting point of from +142° to +144° C.

reactant | 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3-dioxo-isoindolyl)-phenylthio]-cyclopropanecarboxylic acid chloride | 1 g | ClC1=C(C=C(C(=C1)F)N1C(C2=CCCCC2C1=O)=O)SC1(CC1)C(=O)Cl | C18H14Cl2FNO3S
reactant | methanol | 10 ml | CO | CH4O
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | methyl acetate | 10 ml | C(C)(=O)OC | C3H6O2
solvent | methyl acetate | 10 ml | C(C)(=O)OC | C3H6O2
product | 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3-dioxo-isoindolyl)-phenylthio]-cyclopropanecarboxylic acid methyl ester | 0.9 g | COC(=O)C1(CC1)SC1=C(C=C(C(=C1)N1C(C2=CCCCC2C1=O)=O)F)Cl | C19H17ClFNO4S
